US04886794
4-[(3-Chloro)propyl]-3-methyl-2-oxazolidinone
A cold (ice bath) solution of 4.0 g (0.041 mole) of phosgene dissolved in 50 ml of methylene chloride was treated dropwise with a solution of 4.7 g (0.041 mole) of 2-hydroxymethyl-1-methylpyrrolidine in 15 ml of methylene chloride at such a rate that the temperature did not exceed 10° C. After addition was complete, the solution was stirred in the cold for 1 hr and then treated dropwise with 4.0 g (0.041 mole) of triethylamine at such a rate that the temperature did not exceed 25° C. The mixture was stirred at ambient temperature for 3 hr and then treated with 50 ml of 1N hydrochloric acid. The layers were separated and the organic layer was washed successively with 50 ml of 1N hydrochloric acid, 50 ml of 4% sodium hydroxide, and 50 ml of brine. The organic layer was dried over sodium sulfate and concentrated to give 2.5 g of oil as residue. This oil was purified by column chromatography on 50 g of silica gel eluted with benzene. Fractions containing the desired product were combined and concentrated to give 1.8 g (25%) of product as an oil.

reactant | phosgene | 0.041 mole, 4.0 g | C(=O)(Cl)Cl | CCl2O
reactant | 2-hydroxymethyl-1-methylpyrrolidine | 0.041 mole, 4.7 g | OCC1N(CCC1)C | C6H13NO
reactant | triethylamine | 0.041 mole, 4.0 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-[(3-Chloro)propyl]-3-methyl-2-oxazolidinone | 2.5 g | ClCCCC1N(C(OC1)=O)C | C7H12ClNO2
